US07759365B2
2-ETHYL-6-FLUORO-1-PHENYL-3-PIPERIDIN-4-YL-1H-INDOLE
To a stirred solution of 4-(2-ethyl-6-fluoro-1-phenyl-1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.12 g) in DCM (20 ml) at r.t., is added trifluoroacetic acid (0.5 ml). After 15 h, the mixture is concentrated in vacuo. Flash chromatography (DCM:MeOH, gradient elution) of the resulting liquid gives 70 mg pure product (57%, TFA salt) as a beige solid after trituration with diethylether.

reactant | 4-(2-ethyl-6-fluoro-1-phenyl-1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(N(C2=CC(=CC=C12)F)C1=CC=CC=C1)CC | C26H31FN2O2
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-ETHYL-6-FLUORO-1-PHENYL-3-PIPERIDIN-4-YL-1H-INDOLE | 70 mg, 57% | C(C)C=1N(C2=CC(=CC=C2C1C1CCNCC1)F)C1=CC=CC=C1 | C21H23FN2
